US07592477B2
Step a) Formation of ethyl[bis(4-oct-1-ynylbenzyl)amino](oxo)acetate
The same procedure as employed in the preparation of Example 226 (step c) but using ethyl[(4-bromobenzyl)(4-oct-1-ynylbenzyl)amino](oxo)acetate and 1-octyne gave the title compound as a pale yellow oil (32%). 1H NMR (CDCl3, 300 MHz) δ 7.38 (m, 4H), 7.16 (d, 2H, J=8.3 Hz), 7.12 (d, 2H, J=7.9 Hz), 4.45 (s, 2H), 4.35 (q, 2H, J=7.2 Hz), 4.28 (s, 2H), 2.42 (t, 4H, J=7.1 Hz), 1.62 (m, 4H), 1.47 (m, 4H), 1.33 (m, 11H), 0.92 (t, 6H, J=6.8 Hz). M+(LC/MS(ESI)): 514.0. HPLC (Condition A), Rt: 6.54 min (HPLC purity: 99.3%).

reactant | ethyl[(4-bromobenzyl)(4-oct-1-ynylbenzyl)amino](oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C#CCCCCCC)CC1=CC=C(C=C1)Br)=O | C26H30BrNO3
reactant | 1-octyne | C#CCCCCCC | C8H14
product | ethyl[bis(4-oct-1-ynylbenzyl)amino](oxo)acetate | 32% | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C#CCCCCCC)CC1=CC=C(C=C1)C#CCCCCCC)=O | C34H43NO3
